US07393868B2
2-Bromo-5-(cyanomethyl-amino)-benzonitrile
Mix 5-amino-2-bromobenzonitrile (0.76 mmol) in anhydrous THF (3 ml), N,N-diisopropylethylamine (0.92 mmol), and bromoacetonitrile (1.0 mmol) at room temperature under inert atmosphere. Heat the mixture to 100° C. for 16 h in a sealed tube. Cool in ice bath, filter the precipitate and evaporate the filtrate to dryness to afford a crude residue. Purify by flash chromatography (Silica gel-CHCl3/Ethanol/NH4OH 9:1:0.1) to yield the title compound.

reactant | 5-amino-2-bromobenzonitrile | 0.76 mmol | NC=1C=CC(=C(C#N)C1)Br | C7H5BrN2
reactant | N,N-diisopropylethylamine | 0.92 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromoacetonitrile | 1.0 mmol | BrCC#N | C2H2BrN
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-Bromo-5-(cyanomethyl-amino)-benzonitrile | BrC1=C(C#N)C=C(C=C1)NCC#N | C9H6BrN3
